US07112582B2
Step 3: ethyl 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxylate
To a partial solution of 6,7-dihydro-4H-[1,2,3]oxadiazolo[4,3-c][1,4]oxazin-8-ium-3-olate (3.41 g, 24 mmol) in o-xylene (80 ml), was added ethyl propiolate (2.7 ml, 26 mmol). The mixture was stirred at 140° C. for 3 hr. An additional 2.0 ml (19 mmol) of ethyl propiolate was then added and the mixture was stirred at reflux for 18 hr. The final solution was evaporated under vacuum, and the residue was dissolved in a mixture of methylene chloride and hexanes (1:5). The solution was passed through a pad of silica gel and the filter pad was eluted with methylene chloride-hexanes, followed by ethyl acetate. The ethyl acetate eluent was evaporated and the residue washed with hexanes to give 4.10 g of a white solid; mp 63° C.; MS (ESI) m/z 197.1 (M+H).

reactant | 6,7-dihydro-4H-[1,2,3]oxadiazolo[4,3-c][1,4]oxazin-8-ium-3-olate | 24 mmol, 3.41 g | N=1OC(=C2COCC[N+]21)[O-] | C5H6N2O3
reactant | ethyl propiolate | 26 mmol, 2.7 ml | C(C#C)(=O)OCC | C5H6O2
reactant | ethyl propiolate | 19 mmol, 2.0 ml | C(C#C)(=O)OCC | C5H6O2
solvent | o-xylene | 80 ml | CC=1C=CC=CC1C | C8H10
product | ethyl 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxylate | 4.10 g | N1=C(C=C2COCCN21)C(=O)OCC | C9H12N2O3
